US05750050
Step 6.3 Preparation of 3-Decyloxybenzoic acid.
A solution of methyl 3-decyloxybenzoate (9.64 g, 0.033 mol) and sodium hydroxide (6.60 g, 0.165 mol) in methanol (150 ml) and water (15 ml) was heated under reflux for 2 h. The reaction mixture was then allowed to cool, followed by addition of dilute HCl (100 ml). The crude product was filtered off, washed with water and then dried in vacuo. The material was recrystallised to yield colourless crystals.

reactant | methyl 3-decyloxybenzoate | 0.033 mol, 9.64 g | C(CCCCCCCCC)OC=1C=C(C(=O)OC)C=CC1 | C18H28O3
reactant | sodium hydroxide | 0.165 mol, 6.60 g | [OH-].[Na+]
reactant | HCl | 100 ml | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 15 ml | O | H2O
product | 3-Decyloxybenzoic acid | C(CCCCCCCCC)OC=1C=C(C(=O)O)C=CC1 | C17H26O3
